### PR TITLE
[Merged by Bors] - feat: a few lemmata about `ℂ`

### PR DESCRIPTION
**Pull request by j-loreaux**
These are useful for facts about unitary elements in C⋆-algebras.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/Basic.lean [hunk 1]
```diff
@@ -627,6 +627,20 @@ lemma ball_one_subset_slitPlane : Metric.ball 1 1 ⊆ slitPlane := fun z hz ↦
...
+lemma subset_slitPlane_iff_of_subset_sphere {r : ℝ} {s : Set ℂ} (hs : s ⊆ sphere 0 r) :
+    s ⊆ slitPlane ↔ (-r : ℂ) ∉ s := by
+  simp_rw +singlePass [← not_iff_not, Set.subset_def, mem_slitPlane_iff_not_le_zero]
+  push ¬ _
+  refine ⟨?_, fun hr ↦ ⟨_, hr, by simpa using hs hr⟩⟩
+  rintro ⟨z, hzs, hz⟩
+  have := eq_coe_norm_of_nonneg (neg_nonneg.mpr hz)
+  rw [norm_neg, neg_eq_iff_eq_neg] at this
+  convert this ▸ hzs
+  simpa [eq_comm] using hs hzs
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/Basic.lean]: here's a _slight_ golf
```suggestion
  have : ‖z‖ = r := by simpa using hs hzs
  simpa [← this, ← norm_neg z ▸ eq_coe_norm_of_nonneg (neg_nonneg.mpr hz)]
```

**Comment by dupuisf** [comment]
Looks good, thanks!

bors d+

**Comment by j-loreaux** [comment]
bors merge
